US06998412B2
Methyl 4-[2-(p-tolyl)-5-trifluoromethyloxazol-4-yl]butanoate
4-[2-(p-Tolyl)-5-trifluoromethyloxazol-4-yl]butanenitrile (5.28 g) was dissolved in 40 ml of methanol, and stirred for 10 minutes under ice-cooling under bubbling hydrogen chloride gas. After the bubbling was stopped, the mixture was warmed to room temperature and stirred for 30 minutes. To the reaction solution was added 5 ml of water, and the mixture was stirred for 30 minutes, allowed to stand at room temperature overnight. After addition of water, the reaction solution was extracted with ethyl acetate. The extract was washed with saturated aqueous sodium hydrogen carbonate solution, dried over anhydrous magnesium sulfate and concentrated. The residue was purified by silica gel column chromatography (Wakogel® C-200, n-hexane:ethyl acetate=4:1) to provide 5.63 g of the objective compound as colorless crystals. M.p. 44.5-45° C.

reactant | 4-[2-(p-Tolyl)-5-trifluoromethyloxazol-4-yl]butanenitrile | 5.28 g | C1(=CC=C(C=C1)C=1OC(=C(N1)CCCC#N)C(F)(F)F)C | C15H13F3N2O
reactant | water | 5 ml | O | H2O
reactant | methanol | 40 ml | CO | CH4O
product | Methyl 4-[2-(p-tolyl)-5-trifluoromethyloxazol-4-yl]butanoate | 5.63 g | C1(=CC=C(C=C1)C=1OC(=C(N1)CCCC(=O)OC)C(F)(F)F)C | C16H16F3NO3
